US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide and 3-hydroxy-azetidinium chloride (73 mg, 0.667 mmol) gave 7-cyclopentyl-2-[5-(3-hydroxy-azetidin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as a light yellow solid (0.131 g, 47%) [following SiO2 chromatography, eluting with 0-5% (2M NH3 in MeOH)/DCM). MS (ESI) m/z 436.2 (M+H)+ (method B).

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | 3-hydroxy-azetidinium chloride | 0.667 mmol, 73 mg | [Cl-].OC1C[NH2+]C1
product | 7-cyclopentyl-2-[5-(3-hydroxy-azetidin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.131 g, 47% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CC(C2)O)N1C1CCCC1)C | C23H29N7O2
